Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Dyspnea on exertion and chest tightness
 
Major Surgical or Invasive Procedure:
Coronary angiography with deployment of 2 drug-eluting stents in 
the LAD
 
History of Present Illness:
Dr. ___ is a ___ year old man with history of 
hyperlipidemia, ___ disease who presents from ___ with 
dyspnea on exertion and chest tightness.

Patient reported ongoing dyspnea on exertion x 2 weeks. He noted 
that when walking 4 blocks to the bus, he had to stop after 2 
blocks due to discomfort in his stomach and chest tightness. 
Symptoms improved with stopping to rest. He has had some 
associated nausea. He has not had fevers or chills. He has not 
had recent travel. He also denies orthopnea, paroxysmal 
nocturnal dyspnea, lower extremity swelling, or palpitations.

He presented to ___ for evaluation on the day of admission. He 
was found to have ambulatory O2 sat 96% on RA, resting sat 99%, 
HR ___. EKG with ST changes on II, III, ST depressions V4, 
V5, aVL with first degree block concerning for ischemia. Given 
patient's symptoms and ECG changes, he was given full dose ASA 
and referred to ___ ED for further evaluation.
 
Past Medical History:
-Hyperlipidemia
-___ Disease
-Spinal stenosis
-Vitamin D deficiency
-Erectile dysfunction
 
Social History:
___
Family History:
Paternal grandfatherdied with a myocardial infarction at age ___. 
Father with heart failure. Paternal aunt with heart failure. 
Both maternal grandfather and grandmother died with malignancies 
of unknown type, also at an advanced age. There is a family h/o 
familial hypercholesterolemia.
 
Physical Exam:
On admission
General: Alert, oriented, very pleasant late middle aged white 
man speaking in full sentences, masked facies, in no acute 
distress
VS: T 97.7 BP 150/89 HR 59 RR 18 SaO2 99% on RA
HEENT: Sclera anicteric, mucous membranes moist, oropharynx 
clear, EOMI, PERRL, neck supple, JVP not elevated, no 
lymphadenopathy
CV: Regular rate and rhythm, normal S1 + S2; no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally--no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No Foley , no CVA tenderness
Ext: Warm, well perfused, 2+ pulses, no clubbing or cyanosis, 
trace edema in bilateral lower extremities to mid shin
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.
Skin: warm, well perfused, hyperpigmentation below posterior 
neck

At discharge
General: Alert, oriented, very pleasant man speaking in full 
sentences, in no acute distress
VS: T 98 BP 129/73 HR 65 RR 18 SaO2 100% on RA
HEENT: Sclera anicteric, mucous membranes moist, oropharynx 
clear, neck supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2; no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing or cyanosis, 
trace edema in bilateral lower extremities to mid shin
Skin: warm, well perfused, hyperpigmentation below posterior 
neck
 
Pertinent Results:
___ 08:03PM BLOOD WBC-6.6 RBC-4.87 Hgb-14.4 Hct-45.3 MCV-93 
MCH-29.6 MCHC-31.8* RDW-13.1 RDWSD-44.6 Plt ___
___ 08:03PM BLOOD ___ PTT-30.5 ___

___ 08:03PM BLOOD Glucose-97 UreaN-20 Creat-1.2 Na-139 
K-4.5 Cl-102 HCO3-28 AnGap-14
___ 06:00AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.2
___ 08:03PM BLOOD %HbA1c-5.6 eAG-114

___ 08:03PM BLOOD cTropnT-0.16*
___ 06:00AM BLOOD CK-MB-6 cTropnT-0.19*
___ 06:55PM BLOOD CK-MB-6 cTropnT-0.16*
___ 07:10AM BLOOD CK-MB-7 cTropnT-0.18*

___ 07:10AM BLOOD WBC-8.1 RBC-4.77 Hgb-14.3 Hct-43.8 MCV-92 
MCH-30.0 MCHC-32.6 RDW-13.5 RDWSD-45.7 Plt ___
___ 07:10AM BLOOD ___ PTT-29.8 ___
___ 07:10AM BLOOD Glucose-90 UreaN-18 Creat-1.2 Na-138 
K-4.4 Cl-103 HCO3-25 AnGap-14
___ 07:10AM BLOOD ALT-28 AST-25 AlkPhos-83
___ 07:10AM BLOOD Calcium-9.7 Phos-3.0 Mg-2.1

ECG ___ 4:00:04 ___
Sinus rhythm. Prolonged P-R interval. Compared to the previous 
tracing of ___ no change.

CXR ___
Lungs are hyperinflated and clear. There is no focal 
consolidation, effusion, or pneumothorax. The cardiomediastinal 
silhouette is normal. Imaged osseous structures are intact. No 
free air below the right hemidiaphragm is seen.
IMPRESSION: No acute intrathoracic process.

Echocardiogram ___
The left atrium is elongated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. 
Regional left ventricular wall motion is normal. Overall left 
ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened. No 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 
IMPRESSION: Mild, symmetric left ventricular hyptertrophy with 
normal biventricular chamber size and function. No clinically 
significant valvular disease. Normal pulmonary artery systolic 
pressure. 

Coronary angiography ___
Coronary Anatomy
LM: No disease.
LAD: Proximal 95% lesion. Mid vessel 50% stenosis.
LCx: Distal 70% stenosis.
RCA: No significant disease.
Interventional Details
We believed the LAD to be the culprit vessel. XB3.5 guide placed 
in LM. The small D1 was wired with a Runthrough. The LAD was 
wired with ___ FC supported by an OTW balloon after 
failure of the Runthrough to wire to cross. Angioplasty and 
placement of overlapping 3.0 x 38 and 3.5 x 12 Promus Premier 
DES from mid to proximal LAD. Post-dilated with a 3.5 NC balloon 
throughout. The D1 was jailed and lost, but was not attempted to 
be rewired due to its small size. TIMI III flow in LAD, 0% 
residual.
Impressions:
Critical proximal LAD stenosis. 70% LCx stenosis.
Successful PCI of the proximal to mid LAD with 3.0 and 3.5 
overlapping DES.
TR band to right radial.
Recommendations
Continue Ticagrelor 90 BID starting this evening.
Treat with DAPT x ___ year minimum.
 
Brief Hospital Course:
Dr. ___ is a ___ year old male ___ with history of 
hyperlipidemia, ___ disease presenting with 2 weeks of 
dyspnea on exertion, chest tightness, ECG with sub millimeter ST 
elevations in inferior leads, elevated troponin-T consistent 
with NSTEMI treated with PCI. 

# NSTEMI: Patient presented to HCA with a 2 week history of 
dyspnea and angina on exertion. He was found to have new EKG 
changes and elevated troponin-T to 0.19 with normal CK-MB 
consistent with NSTEMI. Urgent coronary angiography showed 2 
vessel CAD (LAD proximal 95%, LAD mid 50%, CX distal 70%) and 2 
drug-eluting stents were placed in his LAD. His post-PCI course 
was uncomplicated and symptom free. Echocardiogram did not show 
evidence of systolic dysfunction. He was treated with ASA 81 mg 
daily, ticagrelor 90 mg BID, metoprolol succinate 25 mg daily, 
and atorvastatin 80 mg daily. The importance of uninterrupted 
dual anti-platelet therapy to prevent stent thrombosis and 
maximal dose of aspirin 100 mg daily while on ticagrelor were 
reviewed with the patient. The patient was given a prescription 
and referral information for outpatient cardiac rehabilitation.

# ___ Disease: Continued home medications. 

*****TRANSITIONAL ISSUES*****
# CODE: full code, confirmed with patient, would not want 
resuscitation if no hope at meaningful life (i.e, able to carry 
on conversation), comfortable with CPR and intubation as initial 
therapies
# CONTACT: wife ___, ___ ___ 
# PCP: ___, MPH 
# Cardiologist: Will f/u with Dr. ___ Dr. ___
# Started ticagrelor 90 mg BID s/p LAD stent
# Started metoprolol succinate 25mg daily 
# Can return to work ___ but without strenuous activities
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Aspirin 325 mg PO DAILY 
3. Carbidopa-Levodopa (___) 1.5 TAB PO QID 
4. Pramipexole 0.5 mg PO TID 
5. Rasagiline 1 mg PO DAILY 
6. Viagra (sildenafil) 100 mg oral DAILY:PRN sexual intercourse 
7. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
8. Vitamin D 1000 UNIT PO BID 
9. Finasteride 5 mg PO DAILY 
10. AndroGel (testosterone) 1 % (50 mg/5 gram) transdermal DAILY
11. Niacin SR 500 mg PO DAILY
 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY  
2.  TiCAGRELOR 90 mg PO BID 
3.  Aspirin 81 mg PO DAILY 
4.  Atorvastatin 80 mg PO QPM 
5.  Carbidopa-Levodopa (___) 1.5 TAB PO QID  
6.  Finasteride 5 mg PO DAILY  
7.  Pramipexole 0.5 mg PO TID  
8.  Rasagiline 1 mg PO DAILY  
9.  Testosterone 2 mg Patch 1 PTCH TD DAILY  
10.  Viagra (sildenafil) 100 mg oral DAILY:PRN sexual 
intercourse
11.  Vitamin D 1000 UNIT PO BID  
12.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  
13. HELD- AndroGel (testosterone) 1 % (50 mg/5 gram) transdermal 
DAILY 
14. HELD- Niacin SR 500 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Non ST segment myocardial infarction
-Coronary artery disease, treated with deployment of 2 
drug-eluting stents
-Hyperlipidemia
-Erectile dysfunction
-___ disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Dr. ___, 

___ was a pleasure taking care of you during your stay at ___ 
___.  

You came to the hospital because for evaluation of shortness of 
breath.  Lab tests and EKG indicated that you were having a type 
of heart attack known as NSTEMI. A cardiac catheterization was 
performed and a stent was placed to restore blood flow to your 
heart.  An ultrasound of your heart showed normal pump function. 
  

We started some new medications to lower your risk of 
complications from the heart attack, such as your stent closing 
off.  Please take these medications every day as prescribed.  

You will need to follow up with cardiology and your primary care 
doctor as listed below.  

Sincerely, 

Your ___ medical team. 
 
Followup Instructions:
___